US05395824
Preparation of N-Acetyl-L-leucine-(1-formyl)phenethylamide
In 100 ml of DMF was dissolved 5.0 g of L-phenylalanine methyl ester hydrochloride, and 2.4 g of N-methylmorpholine was added thereto. To the solution were added 4.0 g of N-acetyl-L-leucine, 5.0 g of 1-hydroxybenzotriazole, and 5.5 g of 1-ethyl-3-(3-diethylaminopropyl)carbodiimide hydrochloride, and the mixture was stirred at room temperature for 24 hours. After completion of the reaction, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with a 10% citric acid solution, a saturated brine, a saturated sodium bicarbonate solution, and a saturated brine and dried over sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel to obtain 6.7 g of the titled compound as a colorless crystal.

reactant | L-phenylalanine methyl ester hydrochloride | 5.0 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 2.4 g | CN1CCOCC1 | C5H11NO
reactant | N-acetyl-L-leucine | 4.0 g | C(C)(=O)N[C@@H](CC(C)C)C(=O)O | C8H15NO3
reactant | 1-hydroxybenzotriazole | 5.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-diethylaminopropyl)carbodiimide hydrochloride | 5.5 g | Cl.C(C)N=C=NCCCN(CC)CC
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-Acetyl-L-leucine-(1-formyl)phenethylamide | 6.7 g | C(=O)C1(CCNC([C@@H](NC(C)=O)CC(C)C)=O)CC=CC=C1 | C17H26N2O3
